US07217714B1
1-Acetyl-3-azetidinecarboxylic acid
3-Azetidine carboxylic acid (2.25 g, 22.2 mmol) and acetic anhydride (80 ml) were heated gently until all of the acid had dissolved. The reaction was stirred at room temperature for 18 hours and then the acetic anhydride was removed under reduced pressure. Water was added and evaporated under reduced pressure. The residue was dissolved in hot ethyl acetate and filtered whilst hot and the filtrate was evaporated under reduced pressure to afford the title compound as a white solid, 1.54 g.

reactant | 3-Azetidine carboxylic acid | 22.2 mmol, 2.25 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-3-azetidinecarboxylic acid | C(C)(=O)N1CC(C1)C(=O)O | C6H9NO3
